US05650533
A mixture of 2-nitro-4-trifluoromethylbenzoyl chloride (8.0 g) and triphenylphosphine (16.5 g) in dry acetone (75 ml) was treated with bis-(triphenylphosphine)tetrahydroboratocopper(I) (19.8 g). The resulting suspension was stirred for 1 hour, filtered and washed with diethyl ether. The filtrate was evaporated to dryness and the resulting residue was subjected to chromatography, eluting with a mixture of diethyl ether and n-hexane (1:5 v/v), to give 2-nitro-4-trifluoromethylbenzaldehyde (5.91 g) in the form of an off-white solid, m.p. 63° C.

reactant | 2-nitro-4-trifluoromethylbenzoyl chloride | 8.0 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF3NO3
reactant | triphenylphosphine | 16.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 2-nitro-4-trifluoromethylbenzaldehyde | 5.91 g | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4F3NO3
